US08426411B2
To a solution of (3R,4R)-tert-butyl 4-methyl-3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate (40 g, 78 mmol) in 1,4-dioxane (160 mL) was added NaOH (1 N aqueous, 157 mL). The mixture was heated at about 60° C. for about 1 h. The mixture was allowed to cool to ambient temperature. The mixture was partitioned with HCl (4 N aqueous, 50 mL) and extracted with DCM (2×300 mL). The combined organic extracts were washed with brine (400 mL), dried over anhydrous Na2SO4, filtered then coned in vacuo. The product was purified on silica gel (330 g) using 1-5% MeOH in DCM to give (3R,4R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-methylpiperidine-1-carboxylate (30 g, 99%): LC/MS (Table 1, Method b) Rt=2.00 min; MS m/z: 356 (M+H)+.

reactant | (3R,4R)-tert-butyl 4-methyl-3-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidine-1-carboxylate | 78 mmol, 40 g | C[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=NC=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C26H31N5O4S
reactant | NaOH | 1 N, 157 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | (3R,4R)-tert-butyl 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-methylpiperidine-1-carboxylate | 30 g, 99% | C1(=NC=C2N1C1=C(N=C2)NC=C1)[C@H]1CN(CC[C@H]1C)C(=O)OC(C)(C)C | C19H25N5O2
